US05272163
N-[4-(Phenylcarbonyl)phenyl]-3,3-difluoro-2-hydroxy-2-difluoromethylpropanamide
To a solution of 2,2,-bis-difluoromethyl-2-hydroxy-acetic acid (1.76 g, 10 mmole) in tetrahydrofuran (40ml) was added carbonyl diimidazole (0.81 g, 5 mmole). The flask was placed in a sonic bath and the reaction sonicated for 20 minutes followed by addition of 4-aminobenzophenone. The reaction was sonicated for 18 hours. The reaction mixture was filtered and the filtrate evaporated to dryness. The recovered pasty solid was washed with ether and the combined ether washings evaporated. The recovered solid was crystallized from ethyl acetate/hexane to give the title compound (0.89g, 25%) as yellow crystals; mp 139°-142° C. 1H--NMR (300 MHz, d6 --DMSO) : 6.48(t, J=53.7Hz, 2H, HCF2); 7.53-7.77 7H, ArH, OH); 7.95-7.98(m, 3H, ArH); 10.43 (s, 1H, NH). MS(CI,CH4) 356(M+1, 100%).

reactant | 2,2,-bis-difluoromethyl-2-hydroxy-acetic acid | 10 mmole, 1.76 g | FC(C(C(=O)O)(O)C(F)F)F | C4H4F4O3
reactant | carbonyl diimidazole | 5 mmole, 0.81 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-aminobenzophenone | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
solvent | tetrahydrofuran | 40ml | O1CCCC1 | C4H8O
product | N-[4-(Phenylcarbonyl)phenyl]-3,3-difluoro-2-hydroxy-2-difluoromethylpropanamide | 0.89g, 25% | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)NC(C(C(F)F)(C(F)F)O)=O | C17H13F4NO3
